US04710503
A suspension of 9.32 g. (48 mM.) of 3-propylxanthine in 80 ml. of pyridine, was treated with 17.33 g. (78 mM.) of phosphorus pentasulfide in 80 ml. of pyridine, and worked up analogously to Example I. 8.9 g. of 3-propyl-6-thioxanthine was obtained. Recrystallization from methanol-acetone gave 7.4 g. (59% yield) of needles with a melting point of 249°-250° C.

reactant | 3-propylxanthine | 48 mM | C(CC)N1C(NC(C=2NC=NC12)=O)=O | C8H10N4O2
reactant | phosphorus pentasulfide | 78 mM | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-propyl-6-thioxanthine | C(CC)N1C(NC(C=2NC=NC12)=S)=O | C8H10N4OS
